US07700641B2
Synthesis of 4′-[6-(dimethylamino)pyridin-3-yl]-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
To an oven-dried flask was charged with [6-(dimethylamino)pyridin-3-yl]boronic acid (37.0 mg, 0.17 mmol), Pd(PPh3)4 (13.5 mg, 0.012 mmol) followed by flashing with nitrogen. To the flask was added a solution of 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (50.0 mg, 0.12 mmol) in anhydrous dioxane (2.00 mL) followed by the addition of 2.0 M Na2CO3 (0.24 mL). The reaction mixture was heated at reflux for 48 h. After cooling down to ambient temperature, the solvent was removed under reduced pressure. The residue was diluted with ethyl acetate (2.00 mL), washed with saturated ammonium chloride (2.00 mL), and concentrated in vacuo to dryness. The residue was subjected to column chromatography to yield the title compounds: 1H NMR (300 MHz, CDCl3) δ 7.77 (d, 1H), 7.32 (t, 1H), 6.87 (dd, 2H), 6.71 (dd, 1H), 6.23 (d, 1H), 6.20 (s, 1H), 5.88 (d, 2H), 4.56 (ABq, 2H), 3.89-3.80 (m, 1H, 3.69-3.59 (m, 1H), 3.05 (s, 6H), 1.78-1.69 (m, 2H), 1.39-1.35 (m, 4H), 0.90 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 177.9, 158.3, 156.1, 148.8, 147.3, 142.9, 142.0, 137.8, 137.2, 129.9, 128.9, 125.6, 122.0, 121.0, 107.6, 104.3, 102.5, 101.5, 93.6, 77.8, 58.5, 40.5, 38.2, 29.1, 27.2, 22.4, 14.0; MS (ES+, m/z) 472.0 (M+1).

reactant | [6-(dimethylamino)pyridin-3-yl]boronic acid | 0.17 mmol, 37.0 mg | CN(C1=CC=C(C=N1)B(O)O)C | C7H11BN2O2
reactant | 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.12 mmol, 50.0 mg | BrC1=C2C3(C(N(C2=CC=C1)CCCCC)=O)COC=1C3=CC3=C(OCO3)C1 | C21H20BrNO4
reactant | Na2CO3 | 2.0 M, 0.24 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 2.00 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.012 mmol, 13.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-[6-(dimethylamino)pyridin-3-yl]-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | CN(C1=CC=C(C=N1)C1=C2C3(C(N(C2=CC=C1)CCCCC)=O)COC=1C3=CC3=C(OCO3)C1)C | C28H29N3O4
